US07842817B2
N-[1-(3,4-Difluorobenzyl)benzimidazol-2-yl]-3,4-difluorobenzylamine
The title compound was prepared by Procedure B in two steps from 2-chloro-benzimidazole, 3,4-difluorobenzyl bromide and 3,4-difluorobenzylamine. The product was isolated by column chromatography to give the title compound as the free base (oil). MS(ES+) m/z 386 ([M+1]+, 100). 1NMR (DMSO-d6) δ 4.59 (d, 2H), 5.30 (s, 2H), 6.87-6.97 (m, 3H), 7.16-7.49 (m, 8H).

reactant | 2-chloro-benzimidazole | ClC=1NC2=C(N1)C=CC=C2 | C7H5ClN2
reactant | 3,4-difluorobenzyl bromide | FC=1C=C(CBr)C=CC1F | C7H5BrF2
reactant | 3,4-difluorobenzylamine | FC=1C=C(CN)C=CC1F | C7H7F2N
product | N-[1-(3,4-Difluorobenzyl)benzimidazol-2-yl]-3,4-difluorobenzylamine | FC=1C=C(CN2C(=NC3=C2C=CC=C3)NCC3=CC(=C(C=C3)F)F)C=CC1F | C21H15F4N3
